US05792218
Preparation of N-Methyl Morpholinium Acetonitrile (MMA):
To a solution of 30 g of morpholine acetonitrile in 75 ml of ethyl acetate was added 22.5 ml of dimethyl sulfate, corresponding to approximately equivalent molar amounts of the two reagents. The resulting solution was mechanically stirred in an oil bath maintained at 40° C. After 10 minutes of stirring, a semi-solid precipitate having a brownish coloration formed and settled on the bottom of the flask. HPLC (high pressure liquid chromatography) analysis showed at least 4 undesirable side products, which were removed. The remaining solution was again heated to 40° C. and reacted for an additional 16 hours. After this time, the resulting white paste was filtered and washed with ethyl acetate. MMA was isolated after drying this filtrate as a free flowing off-white solid in 79% yield, having a melting point of 99°-101° C. The purity of the MMA was determined by HPLC to be greater than 95%.

reactant | morpholine acetonitrile | 30 g | N1(CCOCC1)CC#N | C6H10N2O
reactant | dimethyl sulfate | 22.5 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
product | N-Methyl Morpholinium Acetonitrile | 79% yield | C(C)#N.C[NH+]1CCOCC1 | InChI=1S/C5H11NO.C2H3N/c1-6-2-4-7-5-3-6;1-2-3/h2-5H2,1H3;1H3/p+1
